US04357342
A mixture of crude N-(t-butyldimethylsilyl)-4-(3-benzyloxycarbonyl-2-Hydroxypropyl)-azetidin-2-one (13.46 g, 35.6 mmol), 10% palladium on charcoal, and ethanol (200 ml) is hydrogenated at 40 psi for 30 mins. The mixture is filtered and the filtrate is evaporated under vacuum and stripped with toluene to give N-(t-butyldimethylsilyl)-4-(3-carboxy-2-hydroxypropyl)-azetidin-2-one (9.51 g) as an off-white solid: IR (neat film from Me2CO) 3200 (br), 1735, and 1700 (shifts to 1590 with Et3N) cm-1 ; NMR (Me2CO-d6) δ0.25 (s,6,2CH3), 0.98 (s,9,C(CH3)3) 1.17-2.33 (m,2,CH--C CH2 --CH), 2.50 (d,2,J=6.5, CH2CO2), 2.50-3.40 (m,2,H3 and H3β), 3.97 (m,2,H4 and CHOH); MS on bistrimethylsilyl derivative m/e 431 (M+), 416 (M+-57) and 332 (374-42).

reactant | N-(t-butyldimethylsilyl)-4-(3-benzyloxycarbonyl-2-Hydroxypropyl)-azetidin-2-one | 35.6 mmol, 13.46 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CC(CC(=O)OCC1=CC=CC=C1)O)=O | C20H31NO4Si
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-(t-butyldimethylsilyl)-4-(3-carboxy-2-hydroxypropyl)-azetidin-2-one | 9.51 g | [Si](C)(C)(C(C)(C)C)N1C(CC1CC(CC(=O)O)O)=O | C13H25NO4Si
